datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[O:10]([K])C(CCC)/C([H])=C(C)\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)=C([H])C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCC)CCCCCC)CCCCCC>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCC)CCCCCC)CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([S][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([S][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])C(C)C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C(C)C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C1=CC=CC=C1)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CC)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C([H])[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C([H])=C(C)C(CCC)[O:10]1>>[O-:10]C(CCC)/C(C)=C([H])\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(C)C(C)=C(C)C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)/C(C)=C(C)\[C:20](C)=[OH+:21] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](CC)[CH]([H])C([H])[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C([H])[CH]([H])[S]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(C)C(C)=C(C)C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C(C)/C(C)=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(O)C([H])C([H])C(C)[O+:10]1([K])>>[O:10]([K])C(C)C([H])C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])[H])C1=CC=CC=C1)C1=CC=CC=C1>>CN([C:20]1(OC(C([O:21]1)[H])C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC1=CC=CC=C1)[H].[O-:21]CC>>CN([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)[H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O][H])[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O][H])[O]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH]([H])[NH]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CCCCCC)[H]>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CCCCCC)CC>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C(C)C([H])C([H])[O:10]1>>[O-:10]C([H])C([H])C(C)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(CC)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(CC)[O]1 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OCCCCCC)CCCCCC)[H]>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OCCCCCC)CCCCCC)[H] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(CC)[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C(C)C(O)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(O)C(C)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1[H])C.[O-:21][H]>>C1=CC=CC=C1C1C(O[C:20](N1[H])([O-:10])[O:21][H])C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C([H])[O]1 10=20;20,21=21"
